US03978129
1-Cyclopropyl-3-dimethylamino-1-(3-trifluoromethylphenyl)-1-propanol.
The Grignard reagent prepared from 64 g. (0.28 mole) of 3-bromobenzotrifluoride and 7 g. (0.28 mole) of magnesium in ether was cooled to -30°C., and 20 g. (0.14 mole) of cyclopropyl 2-dimethylaminoethyl ketone in 100 ml. of ether was added dropwise to the stirred mixture at a rate sufficient to maintain a temperature below -20°C. The mixture was allowed to warm to room temperature and then worked up as described in Preparation I. Distillation of the crude product gave 10 g. of oil which distilled at 78°-83°C./0.12 mm.

reactant | 3-bromobenzotrifluoride | 0.28 mole | BrC=1C=C(C=CC1)C(F)(F)F | C7H4BrF3
reactant | magnesium | 0.28 mole | [Mg] | Mg
reactant | cyclopropyl 2-dimethylaminoethyl ketone | 0.14 mole | CN(CCC(=O)C1CC1)C | C8H15NO
solvent | ether | CCOCC | C4H10O
product | 1-Cyclopropyl-3-dimethylamino-1-(3-trifluoromethylphenyl)-1-propanol | C1(CC1)C(CCN(C)C)(O)C1=CC(=CC=C1)C(F)(F)F | C15H20F3NO
